US07541372B2
{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-(tetrahydro-pyran-4-yl)-amine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using 4-aminotetrahydropyran (173 mg, 1.71 mmol) and N,N-diisopropylethylamine (147 mg, 1.14 mmol) instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane:methanol=40:40:20:0 to 0:75:20:5, 73 mg, 30%) which was obtained as a white solid. MS: m/e=433.3 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | 4-aminotetrahydropyran | 1.71 mmol, 173 mg | NC1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | 1.14 mmol, 147 mg | C(C)(C)N(C(C)C)CC | C8H19N
product | {3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-(tetrahydro-pyran-4-yl)-amine | 73 mg, 30% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NC1CCOCC1 | C24H24N4O4
